US07419620B2
Preparation of 4-(4-Acryloyloxybutyloxy)-3-methyl-4′-phenylazo-azobenzene
To a solution of 0.63 g of 4-hydroxy-3-methyl4′-phenylazo-azobenzene, 1.05 g of triphenylphosphine and 0.58 g of 4-hydroxybutylacrylate in 10 ml THF; which was cooled to −30° C., was added dropwise a solution of 0.70 g of diethyl azodicarboxylate in 5 ml THF. After complete addition, the reaction mixture was stirred for further 45 min at room temperature, and then concentrated to dryness. The obtained yellow-red residue was purified by filtration on silica using methylenechloride as the eluent to give 0.65 g of pure yellow-orange crystalys; λmax. (CB 483): 395 nm.

reactant | 4-hydroxy-3-methyl4′-phenylazo-azobenzene | 0.63 g | OC1=C(C=C(C=C1)N=NC1=CC=C(C=C1)N=NC1=CC=CC=C1)C | C19H16N4O
reactant | triphenylphosphine | 1.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-hydroxybutylacrylate | 0.58 g | OCCCCOC(C=C)=O | C7H12O3
reactant | diethyl azodicarboxylate | 0.70 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-(4-Acryloyloxybutyloxy)-3-methyl-4′-phenylazo-azobenzene | C(C=C)(=O)OCCCCOC1=C(C=C(C=C1)N=NC1=CC=C(C=C1)N=NC1=CC=CC=C1)C | C26H26N4O3
